US04462923
0.1 g of 4-(dimethylamino)pyridine and 1.6 g of p-propylphenol are added to a solution of 2.5 g of 2-pentyl-1,3-benzodioxan-6-carboxylic acid in 50 ml of methylene chloride. The mixture is treated portionwise at 0° C. while stirring with 2.4 g of N,N'-dicyclohexylcarbodiimide. After completion of the addition, the mixture is stirred at 0° C. for a further 10 minutes and then at room temperature for 3 hours. The precipitate is filtered off and the filtrate is evaporated. The residue is taken up in 40 ml of methylene chloride and again filtered. The filtrate is washed with saturated sodium carbonate solution and then with water, dried over sodium sulphate, filtered and evaporated. The crude product is dissolved in boiling hexane, filtered hot with active carbon and crystallized from the filtrate. The crystallizate is recrystallized twice more from hexane. There is obtained pure 2-pentyl-1,3-benzodioxan-6-carboxylic acid p-propylphenyl ester; m.p. 97.5° C., cl.p. 74.5° C. (monotropic).

reactant | p-propylphenol | 1.6 g | C(CC)C1=CC=C(C=C1)O | C9H12O
reactant | 2-pentyl-1,3-benzodioxan-6-carboxylic acid | 2.5 g | C(CCCC)C1OCC2=C(O1)C=CC(=C2)C(=O)O | C14H18O4
reactant | N,N'-dicyclohexylcarbodiimide | 2.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-(dimethylamino)pyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-pentyl-1,3-benzodioxan-6-carboxylic acid p-propylphenyl ester | C(CC)C1=CC=C(C=C1)OC(=O)C1=CC2=C(OC(OC2)CCCCC)C=C1 | C23H28O4
